US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride and 3-phenylsulfonylpropyl chloride were reacted and treated in the same manner as in Example 199 to give 4-amino-5-chloro-2-methoxy-N-((1-(3-(phenylsulfonyl)propyl)piperidin-4-yl)methyl)-benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 3-phenylsulfonylpropyl chloride | C1(=CC=CC=C1)S(=O)(=O)CCCCl | C9H11ClO2S
product | 4-amino-5-chloro-2-methoxy-N-((1-(3-(phenylsulfonyl)propyl)piperidin-4-yl)methyl)-benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCS(=O)(=O)C2=CC=CC=C2)C=C1Cl)OC | C23H30ClN3O4S
